US06777443B2
O-Benzyl-L-serine (10.0 g, 51.3 mmol), di-tert-butyl-dicarbonate (11.2 g, 51.4 mmol) and 1 N sodium hydroxide (103 mL, 103 mmol) are stirred together in 100 mL of dioxane at room temperature for 16 hours. The mixture is concentrated in vacuo, taken up in water, acidified to pH 1 with 6 N HCl and extracted with ethyl acetate. The organic layer is washed with water, then brine, and dried over anhydrous magnesium sulfate. The mixture is filtered and concentrated in vacuo to give BOC-O-benzyl-L-serine as an oil. 4-(2-Chloroacetyl)morpholine (1.22 g, 7.48 mmol) is added to a solution of BOC-O-benzyl-L-serine (2.20 g, 7.46 mmol), triethylamine (0.75 g, 7.43 mmol) and sodium iodide (0.11 g, 0.73 mmol) in 5 mL of N,N-dimethylformamide and the mixture stirred at room temperature for 2 hours. The mixture is diluted with ethyl acetate, washed with water, then with brine, and dried over anhydrous magnesium sulfate. The mixture is filtered and concentrated in vacuo to give a yellow oil. The oil is chromatographed on silica gel with hexane:ethyl acetate:methanol (35:60:5) to give BOC-O-benzyl-L-serine morpholinocarbonylmethyl ester as a colorless oil. HCl gas is bubbled through a solution of the carbamate ester (1.72 g, 4.08 mmol) in methylene chloride (50 mL) for 5 minutes and the mixture is stirred at room temperature for 3 hours. The resulting mixture is concentrated in vacuo to yield O-benzyl-L-serine morpholinocarbonylmethyl ester as a foam.

reactant | O-Benzyl-L-serine | 51.3 mmol, 10.0 g | C(C1=CC=CC=C1)OC[C@H](N)C(=O)O | C10H13NO3
reactant | di-tert-butyl-dicarbonate | 51.4 mmol, 11.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 103 mmol, 1 N, 103 mL | [OH-].[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | BOC-O-benzyl-L-serine | C(=O)(OC(C)(C)C)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
